US07405305B2
10-Oxo-7-aza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester
Dissolve 7-aza-spiro[4.5]decan-10-one (0.43 g, 0.124 mmol) in tetrahydrofuran (40 mL). Add sodium hydrogencarbonate (5 mL, saturated solution) and di-tert-butyldicarbonate (0.50 g, 0.30 mmol), and stir overnight at room temperature. Wash the solution with water and brine, extracting with ethyl acetate (3×25 mL). Dry over magnesium sulfate, filter and concentrate to afford the title compound. ES(M++H):198.

reactant | 7-aza-spiro[4.5]decan-10-one | 0.124 mmol, 0.43 g | C1CCCC12CNCCC2=O | C9H15NO
reactant | sodium hydrogencarbonate | 5 mL | C(O)([O-])=O.[Na+]
reactant | di-tert-butyldicarbonate | 0.30 mmol, 0.50 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 10-Oxo-7-aza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(CCCC2)C(CC1)=O | C14H23NO3
